US07855298B2
Preparation 1: Methyl bromo(4-methoxyphenyl)acetate
To a mixture of methyl 4-methoxyphenylacetate (20 g, 0.11 mol) and NBS (0.11 mol) in CCl4 (0.2 l) were added 3 drops of 48% HBr and this mixture was heated to reflux for 8 h. The cooled solution was filtered through a pad of silica gel and the filtrate was evaporated in vacuo to give 29 g of the title compound as pale yellow oil, which was used in the subsequent step without further purification.

reactant | methyl 4-methoxyphenylacetate | 0.11 mol, 20 g | COC1=CC=C(C=C1)CC(=O)OC | C10H12O3
reactant | NBS | 0.11 mol | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 0.2 l | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | HBr | 3 drops | Br | BrH
product | Methyl bromo(4-methoxyphenyl)acetate | 29 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC | C10H11BrO3
